2175-04-01 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2175-3-31**] 01:17 PM
   venous introducer from cath lab
 TRANSTHORACIC ECHO - At [**2175-3-31**] 03:00 PM
 CORDIS/INTRODUCER - STOP [**2175-3-31**] 04:10 PM
   venous introducer from cath lab
   - post cath check okay
   - hypotensive with maps in low 50s and SBP 80s. Pt asymptomatic.  Given
   250cc bolus for ? overdiuresis.  MAPs improved 60s.
   S: pt feels well this am with no further episodes of CP or pressure.
   No sob.  Pt reported minimal groin pain which resolved with tylenol.
   Allergies:
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2175-3-31**] 11:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2175-4-1**] 12:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-1**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 89 (86 - 99) bpm
   BP: 95/60(67) {81/45(54) - 109/71(78)} mmHg
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    988 mL
                                                                    356 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    268 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    550 mL
   Urine:
                                                                  3,040 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,052 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   GEN: well-appearing middle aged man in NAD
   HEENT: ncat
   CV: rrr, no m/r/g, JVP flat
   LUNGS: ctab, no wheezing or crackels
   ABD: soft, nt/nd BS+
   EXT: wwp, no peripheral edema, DP+
   NEURO: responding appropriately to questions
   Labs / Radiology
   259 K/uL
   12.6 g/dL
   103 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.4 mEq/L
   12 mg/dL
   102 mEq/L
   139 mEq/L
   36.5 %
   12.5 K/uL
        [image002.jpg]
                             [**2175-3-31**]  02:47 PM
                             [**2175-3-31**]  11:26 PM
   WBC
   12.5
   Hct
   36.5
   Plt
   273
   259
   Cr
   1.3
   TropT
   10.33
   Glucose
   103
   Other labs: PT / PTT / INR:13.5/39.2/1.2,
   CK / CKMB / Troponin-T:3054/209/10.33,
   CK: 4867
   MB: >500
   ALT / AST:96/512, Alk Phos / T Bili:54/0.4, LDH:769 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   .
   ECHO:
   The left atrium is mildly dilated. Left ventricular wall thicknesses
   are normal. The left ventricular cavity size is normal. LV systolic
   function appears moderately-to-severly depressed (ejection fraction 30
   percent) secondary to akinesis of the apex and anterior septum, and
   hypokinesis of the inferior septum and anterior free wall. Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. No aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. Trivial mitral regurgitation is seen. There is
   borderline pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   EKG this am HR 92, STE persist in V2-V4 no substantial change from post
   cath EKG.
   Assessment and Plan
   48M with history of hyperlipidemia, borderline diabetes [**Hospital 1010**]
   transferred from OSH for NSTEMI now s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) 7439**] of mid-LAD for
   occlusion.
   .
   # Acute Coronary Syndrome - Pt has risk factors including h/o
   hyperlipidemia, borderline DM, positive family history and a 30 pack
   year smoking history.  Pt went to cath lab on [**4-1**] and had [**Month/Day (4) **] of LAD
   and unsuccessful PTCA of the diagonal.  Post-cath ECHO showed EF of 30%
   with akinesis of the apex and anterior septum, and hypokinesis of the
   inferior septum and anterior free wall. Goals to consider: reduce
   ischemia, anti-platelet therapy, and anti-coagulation.  Peak CPK 4861
   - continue integrilin gtt for total of 48 hours
   - continue plavix and [**Last Name (LF) **], [**First Name3 (LF) **] need to be on plavix for at least one
   year
   - heparin gtt for cont for 48hrs.
   - start coumadin tonight at 5mg PO qhs for 6months total for apical AK.
   (can decrease aspirin to 81 after INR therapeutic).
   - uptitrate metoprolol  to 25mg TID if tolerates
   - will start ACE inhibitor if BP tolerates (possibly low dose
   captopril).
   - cont lipitor 80mg daily.  LFTs mildly elevated in setting of MI; may
   recheck prior to d/c.
   - cholesterol panel with elevated LDL at 142, HDL low normal.
   - PT consult for cardiac rehab at discharge
   .
   # Acute systolic congestive heart failure:  LVEF now 30% s/p MI with
   new WMA.  Currently euvolemic and satting well on RA.
   - monitor I/Os
   - t/c lasix for diuresis if pt develops SOB or evidence of voluem
   overload.
   .
   # Prostatitis - Pt has history of prostatitis for which he takes
   bactrim and flomax.  Was unable to void post-cath requiring Foley with
   greater than 1L urine output.  Pt able to void without problem
   overnight.
   - continue flomax and bactrim
   .
   # Acute Renal Failure - post cath creatinine 1.3.  Baseline 1.0. Got IV
   contrast with CTA at OSH and with cardiac cath.  Cardiac index also
   supressed and EF now only 30%.
   - will avoid fluids for now in setting of pulmonary hypertension and
   elevated wedge pressure.
   - will avoid further lasix at the moment as had large volume diuresis
   to first dose
   - avoid nephrotoxic medications and renally dose as indicated
   .
   # Borderline Diabetes - Pt reports that he was told by PCP that he had
   borderline blood sugars.  He has been trying to eat heart healthy diet.
   - blood sugars mildly elevated
   - HbA1c wnl at 5.8
   .
   # GERD
 cont PPI (cont protonix)  Will discuss discontinuing PPI with
   patient.  Add H2 blockers if he is not getting relief
   .
   # FEN - Heart Healthy diet, replete lytes prn
   # Proph - on heparin gtt, bowel regimen prn, PPI
   # Access - 2 PIVs
   # Code Status - Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-3-31**] 01:05 PM
   Prophylaxis:
   DVT: on heparin gtt
   Stress ulcer: PPI and famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   48 yr old white male with occluded LAD with significant thrombus which
   was treated with thrombectomy and [**Year (4 digits) **].  Peak CK 4800.   EKG with ASMI
   with some STE but no gross change compared with post PCI EKG.  Echo
   reviewed.
   Physical Examination
   No rub or murmur.
   Groin intact.
   Medical Decision Making
   Will slowly advance beta blocker.
   Continue integrilin for 48 hrs.
   With large AMI and apical akinesis, will continue heparin and
   transition to coumadin.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2175-4-1**] 11:42 ------

2175-04-02 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -changed PPI to H2blocker b/c on plavix
   -incr. lopressor to 25 mg PO TID
   -started coumadin for LV akinesis
   -fever (100.8), dysuria - U/A neg
   Allergies:
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2175-4-1**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Other medications: [**Year (4 digits) **] 325mg PO daily, clopidogrel 75mg PO daily,
   Metoprolol 25mg PO TID, atorvastatin 80mg PO daily, Bactrim 1 tab PO
   BID, tamsulosin 0.4mg PO qhs, ranitidine 150mg PO BID, coumadin 5mg PO
   daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient denies chest pain, although states he does
   have some soreness of pectoral muscles related to recent work-out.
   Denies SOB, nausea, vomiting, abdominal pain. Reports mild [**1-3**] lower
   back pain he believes related to lying in bed. Denies groin pain
   Flowsheet Data as of  [**2175-4-2**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100
   HR: 87 (87 - 107) bpm
   BP: 88/57(64) {76/43(50) - 106/76(83)} mmHg
   RR: 16 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,879 mL
                                                                    204 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,179 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    529 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GEN: well-appearing middle aged man in NAD
   CV: rrr, no m/r/g, JVP flat
   LUNGS: ctab, bibasilar crackles, no wheezing or rhonchi
   ABD: soft, nt/nd BS+
   EXT: Right groin accces site C/D/I, no bruits, no hematoma. LE wwp b/l,
   no peripheral edema, DP/PT+
   NEURO: responding appropriately to questions
   Labs / Radiology
   216 K/uL
   10.9 g/dL
   105 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   14 mg/dL
   103 mEq/L
   137 mEq/L
   31.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2175-3-31**]  02:47 PM
                             [**2175-3-31**]  11:26 PM
                             [**2175-4-1**]  05:57 AM
                             [**2175-4-2**]  04:21 AM
   WBC
   12.5
   11.3
   8.4
   Hct
   36.5
   34.2
   31.4
   Plt
   273
   259
   228
   216
   Cr
   1.3
   1.3
   1.4
   TropT
   10.33
   Glucose
   103
   117
   105
   Other labs: PT / PTT / INR:14.9/78.1/1.3, CK / CKMB /
   Troponin-T:803/13/10.33, ALT / AST:78/263, Alk Phos / T Bili:46/0.6,
   LDH:827 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   48M with history of hyperlipidemia, borderline diabetes [**Hospital 1010**]
   transferred from OSH for NSTEMI now s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) 7439**] of mid-LAD for
   occlusion.
   .
   # Acute Coronary Syndrome - Pt has risk factors including h/o
   hyperlipidemia, borderline DM, positive family history and a 30 pack
   year smoking history.  Pt went to cath lab on [**4-1**] and had [**Month/Day (4) **] of LAD
   and unsuccessful PTCA of the diagonal.  Post-cath ECHO showed EF of 30%
   with akinesis of the apex and anterior septum, and hypokinesis of the
   inferior septum and anterior free wall. Goals to consider: reduce
   ischemia, anti-platelet therapy, and anti-coagulation.  Peak CPK 4861.
   Heart rate at goal in 50-60
s, however SBP low in 80-90
   - continue integrilin gtt for total of 48 hours
 dc this am
   - continue plavix and [**Last Name (LF) **], [**First Name3 (LF) **] need to be on plavix for at least one
   year
   - heparin gtt until therapeutic on coumadin
   - continue coumadin x 6months total for apical AK. (can decrease
   aspirin to 81 after INR therapeutic).
   - decrease metoprolol  from 25mg TID to 12.5mg TID
   - will start ACE inhibitor, low dose captopril, and uptitrate as
   tolerated
   - cont lipitor 80mg daily.  LFTs mildly elevated in setting of MI; may
   recheck prior to d/c.
   - PT consult for cardiac rehab at discharge
   .
   # Acute systolic congestive heart failure:  LVEF now 30% s/p MI with
   new WMA.  Currently euvolemic and satting well on RA.
   - monitor I/Os
   - t/c lasix for diuresis if pt develops SOB or evidence of volume
   overload.
   .
   # Prostatitis - Pt has history of prostatitis for which he takes
   bactrim and flomax.  Was unable to void post-cath requiring Foley with
   greater than 1L urine output.
   - continue flomax and bactrim
   .
   # Fever
 Patient with mild fever overnight with Tmax 100.8. Given
   history of dysuria, this is likely related to Foley placement in
   patient with chronic prostatitis however urinalysis negative
   - trend fever curve
   - f/u urine culture
   - continue bactrim
   .
   # Acute Renal Failure - post cath creatinine 1.3.  Baseline 1.0. Got IV
   contrast with CTA at OSH and with cardiac cath.  Cardiac index also
   supressed and EF now only 30%.
   - will avoid fluids for now in setting of pulmonary hypertension and
   elevated wedge pressure.
   - will avoid further lasix at the moment as had large volume diuresis
   to first dose
   - avoid nephrotoxic medications and renally dose as indicated
   .
   # Hyperlipidemia: LDL 142, HDL 37
   - cont atorvastatin  80mg daily
   .
   # Borderline Diabetes - Pt reports that he was told by PCP that he had
   borderline blood sugars.  He has been trying to eat heart healthy diet.
   Blood sugars mildly elevated to 117, fasting sugar of 105. HbA1c wnl at
   5.8
   .
   # GERD
   - cont H2  blocker
   .
   # Gout - active gout flare currently
   - avoid NSAIDs given recent MI
   - colchicine and pain control
   .
   # FEN - Heart Healthy diet, replete lytes prn
   # Proph - on heparin gtt, bowel regimen prn, PPI
   # Access - 2 PIVs
   # Code Status - Full Code
   # Dispo
 call out to floor
   ------ Protected Section ------
   I have reviewed the daily progress note by Dr. [**Last Name (STitle) 7163**] on [**2175-4-2**]
   and I agree with the documentation of the events over the past 24
   hours.  I also concur with the noted physical examination and was
   present during the assessment of its components.  The assessment and
   treatment plan as outlined above accurately reflect our plans for
   therapy over the next 24 hours.   Mr. [**Known lastname 7464**] is symptomatically improved
   over the past 24 hours.  He has had no additional chest pain.  His
   physical examination shows borderline BPs on Metoprolol but a clear
   lung examination.   His LVEF is moderately depressed (LVEF = 30%) by
   echocardiography.  We have initiated aspirin, clopidogrel, beta
   blockers, coumadin, and statin therapy and begun a trial of ACE
   inhibitors (as limited by hypotension).  He seems very motivated for
   ongoing risk factor modification and I would be happy to follow him in
   the office.  [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD [**Telephone/Fax (1) 7286**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2175-4-2**] 12:09 ------

2175-04-03 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -active gout flare, requested indomethacin but did not want to give
   this because of AMI. Started on colchicine with tylenol #3 for pain
   relief.
   -decreased ASA to 81mg daily
   -walked with PT
   -called out to floor
   -spiked fever at 6am on [**4-3**] - 101.3F
   Allergies:
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2175-4-2**] 08:45 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Right knee pain and Left shoulder pain (both chronic)
   Flowsheet Data as of  [**2175-4-3**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 94 (81 - 107) bpm
   BP: 87/57(64) {76/47(54) - 101/64(72)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,137 mL
                                                                    446 mL
   PO:
                                                                  1,680 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    457 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    450 mL
   Urine:
                                                                  2,500 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -363 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GEN: well-appearing middle aged man in NAD
   CV: rrr, no m/r/g, JVP flat
   LUNGS: ctab, bibasilar crackles, no wheezing or rhonchi
   ABD: soft, nt/nd BS+
   EXT: Right groin accces site C/D/I, no bruits, no hematoma. LE wwp b/l,
   no peripheral edema, DP/PT+ , RIGHT knee effusion
   NEURO: responding appropriately to questions
   Labs / Radiology
   219 K/uL
   11.0 g/dL
   101 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   17 mg/dL
   103 mEq/L
   136 mEq/L
   31.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2175-3-31**]  02:47 PM
                             [**2175-3-31**]  11:26 PM
                             [**2175-4-1**]  05:57 AM
                             [**2175-4-2**]  04:21 AM
                             [**2175-4-3**]  04:24 AM
   WBC
   12.5
   11.3
   8.4
   9.4
   Hct
   36.5
   34.2
   31.4
   31.2
   Plt
   273
   259
   228
   216
   219
   Cr
   1.3
   1.3
   1.4
   1.5
   TropT
   10.33
   Glucose
   103
   117
   105
   101
   Other labs: PT / PTT / INR:19.8/80.5/1.8, CK / CKMB /
   Troponin-T:803/13/10.33, ALT / AST:78/263, Alk Phos / T Bili:46/0.6,
   LDH:827 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   48M with history of hyperlipidemia, borderline diabetes [**Hospital 1010**]
   transferred from OSH for NSTEMI now s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) **] of mid-LAD for
   occlusion
   .
   # Acute Coronary Syndrome - Pt has risk factors including h/o
   hyperlipidemia, borderline DM, positive family history and a 30 pack
   year smoking history.  Pt went to cath lab on [**4-1**] and had [**Month/Day (4) **] of LAD
   and unsuccessful PTCA of the diagonal.  Post-cath ECHO showed EF of 30%
   with akinesis of the apex and anterior septum, and hypokinesis of the
   inferior septum and anterior free wall. Goals to consider: reduce
   ischemia, anti-platelet therapy, and anti-coagulation.  Peak CPK 4861.
   Heart rate at goal in 50-60
s, however SBP low in 80-90
   - continue plavix and ASA (81mg), will need to be on plavix for at
   least one year
   - heparin gtt until therapeutic on coumadin
   - continue coumadin x 6months total for apical AK
   - metoprolol  12.5mg TID
   - low dose Captopril at 6.25mg. Plan to transition to po lisinopril 2.5
   mg po tommorow
   - cont lipitor 80mg daily.  LFTs mildly elevated in setting of MI; may
   recheck prior to d/c.
   - PT recs
   .
   #. Joint pain:  Particularly at right knee. Also involvement of right
   toe, left ankle. Patient reports this is similar to previous gouty
   flare. Right knee with large effusion. Nontender, not erythematous. No
   leukocytosis at this time. Per patient report, he has had prior
   arthrocentesis consitent with gout in this joint, but given fever plan
   to involve Rheumatology
   - Treat with colchicine
 unable to give NSAIDs, Indomethacin in
   setting of ACS
   - Anticipate Rheumatology input today
   .
   # Fever
 Patient with mild fever overnight with Tmax 101.3. Given
   history of dysuria, this is likely related to Foley placement in
   patient with chronic prostatitis however urinalysis negative. [**Month (only) 51**] also
   be due to gout, as he associates fevers commonly with his flairs.
   - trend fever curve
   - f/u urine culture
   - continue bactrim
   .
   # Acute systolic congestive heart failure:  LVEF now 30% s/p MI with
   new WMA.  Currently euvolemic and satting well on RA.
   - monitor I/Os
   - t/c lasix for diuresis if pt develops SOB or evidence of volume
   overload.
   .
   # Prostatitis - Pt has history of prostatitis for which he takes
   bactrim and flomax.  Was unable to void post-cath requiring Foley with
   greater than 1L urine output.
   - continue flomax and bactrim
   .
   # Acute Renal Failure - post cath creatinine 1.3
 now 1.5.  Baseline
   1.0. Got IV contrast with CTA at OSH and with cardiac cath.  Cardiac
   index also supressed and EF now only 30%.
   - will avoid fluids for now in setting of pulmonary hypertension and
   elevated wedge pressure.
   - will avoid further lasix at the moment as had large volume diuresis
   to first dose
   - avoid nephrotoxic medications and renally dose as indicated
   .
   # Hyperlipidemia: LDL 142, HDL 37
   - cont atorvastatin  80mg daily
   .
   # Borderline Diabetes - Pt reports that he was told by PCP that he had
   borderline blood sugars.  He has been trying to eat heart healthy diet.
   Blood sugars mildly elevated to 117, fasting sugar of 105. HbA1c wnl at
   5.8
   .
   # GERD
   - cont H2  blocker
   .
   # Gout - active gout flare currently
   - avoid NSAIDs given recent MI
   - colchicine and pain control
   .
   # FEN - Heart Healthy diet, replete lytes prn
   # Proph - on heparin gtt, bowel regimen prn, PPI
   # Access - 2 PIVs
   # Code Status - Full Code
   # Dispo
 call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-3-31**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: